US06440995B1
2-[2-(3,4-Dichloro-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 256-25° C., and MS: m/e=333.1 (M+H+), was prepared from 4-chloro-2-(3,4-dichloro-phenyl)-quinoline and ethanolamine.

reactant | 4-chloro-2-(3,4-dichloro-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C15H8Cl3N
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(3,4-Dichloro-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C17H14Cl2N2O.ClH/c18-13-6-5-11(9-14(13)19)16-10-17(20-7-8-22)12-3-1-2-4-15(12)21-16;/h1-6,9-10,22H,7-8H2,(H,20,21);1H
